US04380645
Step A: Preparation of Methyl 4-formyl-1-methylpyrrole-2-carboxylate
To a mixture of methyl 1-methylpyrrole-2-carboxylate (5.0 g, 0.036 m) and 11.4 g anhydrous aluminum chloride in 150 ml of 1:1 1,2-dichloroethane and nitromethane at -20° C. was added over two minutes a solution of dichloromethyl methylether (3.9 ml, 0.043 m) in 1,2-dichloroethane (20 ml). The resultant mixture was stirred at -10° to -30° C. for 3 hours, quenched with excess ice-water, the resultant mixture extracted well with ether, and the combined ether extracts washed two times with water, passed through a small layer of sodium sulfate-silica gel, and concentrated in vacuo to 5.4 g (90%) of methyl 4-formyl-1-methylpyrrole-2-carboxylate, m.p. 95°-97° C.

reactant | methyl 1-methylpyrrole-2-carboxylate | 5.0 g | CN1C(=CC=C1)C(=O)OC | C7H9NO2
reactant | aluminum chloride | 11.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloromethyl methylether | 3.9 ml | ClC(Cl)OC | C2H4Cl2O
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | Methyl 4-formyl-1-methylpyrrole-2-carboxylate | C(=O)C=1C=C(N(C1)C)C(=O)OC | C8H9NO3
